US08217064B2
The ethyl 1-(6-chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylate (80 mg) dissolved in 10 mL of MeOH/THF/H2O (10 mL/10 mL/5 mL) and 57 mg LiOH added. The reaction mixture was stirred at room temperature for 5 h and concentrated under reduced pressure. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over MgSO4, filtered and concentrated under reduced pressure. Purification by column chromatography over silica gel (hexane/EtOAc 9:1) gave 1-(6-Chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylic acid (45 mg) as a white solid. 1H-NMR (500 MHz, CDCl3): 7.74 (d, 2H), 7.55 (d, 2H), 7.08 (s, 1H), 4.44 (q, 2H), 2.66 (m, 2H), 1.98 (m, 2H), 1.78 (m, 4H).

reactant | ethyl 1-(6-chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylate | 80 mg | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C23H21ClF6O3
reactant | LiOH | 57 mg | [Li+].[OH-]
solvent | MeOH THF H2O | 10 mL | CO.C1CCOC1.O
product | 1-(6-Chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylic acid | 45 mg | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)O)OCC(F)(F)F | C21H17ClF6O3
